US05281593
ii) Methyl 7-indolecarboxylate
A solution of methyl 3-[2-(E)-(dimethylamino)ethenyl]-2-nitrobenzoate (12.0 g, 48 mmol) in toluene (200 ml) was hydrogenated at 60 psi over 10% palladium on charcoal (1.5 g) until hydrogen uptake ceased. The catalyst was filtered off, the filtrate was evaporated and the residue was chromatographed on silica to give the product.

reactant | methyl 3-[2-(E)-(dimethylamino)ethenyl]-2-nitrobenzoate | 48 mmol, 12.0 g | CN(/C=C/C=1C(=C(C(=O)OC)C=CC1)[N+](=O)[O-])C | C12H14N2O4
reactant | hydrogen | [H][H] | H2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium on charcoal | 1.5 g | [Pd] | Pd
product | Methyl 7-indolecarboxylate | N1C=CC2=CC=CC(=C12)C(=O)OC | C10H9NO2
